US06548522B1
N-Butyl-2,2-diphenyl-propionamide
The title compound, colorless oil, MS: m/e=282.2 (M+H+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl chloride and butylamine.

reactant | 2,2-diphenylpropionyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C)C1=CC=CC=C1 | C15H13ClO
reactant | butylamine | C(CCC)N | C4H11N
product | N-Butyl-2,2-diphenyl-propionamide | C(CCC)NC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H23NO
